US07132425B2
A solution of {5-[2-(tetrahydro-pyran-2-yl)-ethoxy]-pyrazin-2-yl}-carbamic acid benzyl ester (560 mg, 1.5 mmol) in tetrahydrofuran (5 mL) and methanol (15 mL) was treated with 10% palladium on activated carbon (110 mg) in methanol (5 mL). The reaction mixture was stirred under a positive pressure of hydrogen gas (balloon) at 25° C. for 2 h, at which time, thin layer chromatography indicated complete removal of the protection group. The reaction mixture was filtered and concentrated in vacuo to afford 5-[2-(tetrahydro-pyran-2-yl)-ethoxy]-pyrazin-2-ylamine as an oil which was used without further purification.

reactant | {5-[2-(tetrahydro-pyran-2-yl)-ethoxy]-pyrazin-2-yl}-carbamic acid benzyl ester | 1.5 mmol, 560 mg | C(C1=CC=CC=C1)OC(NC1=NC=C(N=C1)OCCC1OCCCC1)=O | C19H23N3O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on activated carbon | 110 mg | [Pd] | Pd
solvent | methanol | 5 mL | CO | CH4O
product | 5-[2-(tetrahydro-pyran-2-yl)-ethoxy]-pyrazin-2-ylamine | O1C(CCCC1)CCOC=1N=CC(=NC1)N | C11H17N3O2
